US05725803
isopropyl myristate:
cetearyl isononanoate--"Cetiol SN": 8.00 wt. %

reactant | cetearyl isononanoate | CCCCCCCCCCCCCCCCOC(=O)CCCCCC(C)C | C25H50O2
reactant | Cetiol | CCCCCCCC/C=C\CCCCCCCCOC(=O)CCCCCCC/C=C\CCCCCCCC | C36H68O2
product | isopropyl myristate | C(CCCCCCCCCCCCC)(=O)OC(C)C | C17H34O2
